US09126950B2
Synthesis of tert-butyldimethyl(2-(4-nitrophenoxy)ethoxy)silane.
To a solution of 2-(4-nitrophenoxy)ethanol (6.40 g) in DMF were added imidazole (4.75 g) and TBDMSCl (6.84 g) and reaction mixture was stirred at room temperature for 1 hr. The reaction was monitored on TLC using hexane:ethyl acetate (7:3) as mobile phase. After completion of the reaction, water was added and the mixture was extracted with ethyl acetate. The organic layer was dried over sodium sulfate and the solvent removed under reduced pressure. The crude material was purified by column chromatography eluted with 6% ethyl acetate in hexane to give, after concentration, 10 g of tert-butyldimethyl(2-(4-nitrophenoxy)ethoxy)silane.

reactant | 2-(4-nitrophenoxy)ethanol | 6.40 g | [N+](=O)([O-])C1=CC=C(OCCO)C=C1 | C8H9NO4
reactant | imidazole | 4.75 g | N1C=NC=C1 | C3H4N2
reactant | TBDMSCl | 6.84 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | tert-butyldimethyl(2-(4-nitrophenoxy)ethoxy)silane | C(C)(C)(C)[Si](OCCOC1=CC=C(C=C1)[N+](=O)[O-])(C)C | C14H23NO4Si
